US04438113
To a solution of 7-[2-(2-formamido-5-chlorothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer) (2.1 g) in methanol (50 ml) was added conc. hydrochloric acid (1.35 ml) at 32° to 35° C. The mixture was stirred for an hour at the same temperature. The resulant solution was adjusted to pH 5.0 with a saturated aqueous solution of sodium bicarbonate. After removing the solvent, the residual insoluble precipitates were collected by filtration. The precipitates were washed with water and dried over phosphorus pentoxide to give 7-[2-(2-amino-5-chlorothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer) (1.8 g), mp 180° to 185° C. (dec.).

reactant | 7-[2-(2-formamido-5-chlorothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-cephem-4-carboxylic acid | 2.1 g | C(=O)NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCC(=O)OC(C)(C)C)Cl | C19H20ClN5O8S2
reactant | hydrochloric acid | 1.35 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 7-[2-(2-amino-5-chlorothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-cephem-4-carboxylic acid | 1.8 g | NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCC(=O)OC(C)(C)C)Cl | C18H20ClN5O7S2
